US06245746B1
(A) O-(tert-Butyldimethylsilyl)-Nα-Benzyl-Nδ-Boc-Nα-Methylornithinol
A solution of Nα-benzyl-Nδ-Boc-Nα-methylornithinol (560 mg), dimethylformamide (1.5 ml), and t-butyldimethylsilyl chloride (330 mg), triethylamine (290 μl) and 4-(N,N-dimethylamino)pyridine (21 mg) was stirred at 0° C., under nitrogen atmosphere, for 1 hr. Then the mixture was stirred, at 25° C., for 10 hrs and then poured into water (20 ml) and extracted with dichloromethane (2×20 ml). The combined organic phase was washed with water and brine, and dried over sodium sulfate. Evaporation of the solvent afforded titled compound (690 mg) as a clear solid: 1H NMR (400 MHz, CDCl3) δ0.06 (s, 6H), 0.91 (s, 9H), 1.43 (s, 9H), 1.45-1.73 (m, 4H), 2.22 (s, 3H), 2.68 (m, 1H), 3.12 (m, 2H), 3.62 (dd, J=10.4; 5.2 Hz, 1H), 3.68 (d, J=13.6 Hz, 1H), 3.78 (m, 2H), and 7.30 (m, 5H).

reactant | Nα-benzyl-Nδ-Boc-Nα-methylornithinol | 560 mg | C(C1=CC=CC=C1)N([C@@H](CCCNC(=O)OC(C)(C)C)CO)C | C18H30N2O3
reactant | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
reactant | t-butyldimethylsilyl chloride | 330 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | triethylamine | 290 μl | C(C)N(CC)CC | C6H15N
catalyst | 4-(N,N-dimethylamino)pyridine | 21 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | water | 20 ml | O | H2O
product | O-(tert-Butyldimethylsilyl)-Nα-Benzyl-Nδ-Boc-Nα-Methylornithinol | 690 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H](N(C)CC1=CC=CC=C1)CCCNC(=O)OC(C)(C)C | C24H44N2O3Si
